US07402595B2
[Step 1] To a solution of 1-amino-2-butanol (3.9 g) in methanol (50 ml) was added anisaldehyde (5.0 g) under ice-cooling. The mixture was stirred at the same temperature for 1 hr., and a solution of sodium borohydride (1.1 g) in 1N sodium hydroxide (17 ml) was added dropwise. The mixture was stirred at 0° C. for 30 min, 2N hydrochloric acid (68 ml) was added dropwise and diisopropyl ether was added to allow partitioning. The aqueous layer was alkalified with potassium carbonate (12.1 g) and ethyl acetate was added to allow partitioning. The ethyl acetate layer was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give 1-(4-methoxybenzylamino)butan-2-ol (5.4 g) as a brown oil. [Step 2] To a mixture of 2-benzoyl-4-bromobenzoic acid (7.5 g), 1-(4-methoxybenzylamino)butan-2-ol (5.4 g) and acetonitrile (100 ml) were added 1-hydroxy-1H-benzotriazole monohydrate (4.3 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.9 g) at room temperature and the mixture was stirred at the same temperature for 18 hrs. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate. This solution was washed with 1N hydrochloric acid and saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=5/1-2/3) to give 2-benzoyl-4-bromo-N-(2-hydroxybutyl)-N-(4-methoxybenzyl)benzamide (3.2 g) as a colorless powder. [Step 3] To a mixture of 2-benzoyl-4-bromo-N-(2-hydroxybutyl)-N-(4-methoxybenzyl)benzamide (3.2 g), 4-methylmorpholine N-oxide (2.3 g), molecular sieves 4A powder (1.6 g) and dichloromethane (50 ml) was added tetra-n-propylammonium perruthenate (0.23 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hrs. After the completion of the reaction, molecular sieves 4 A was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/2) to give 2-benzoyl-4-bromo-N-(4-methoxybenzyl)-N-(2-oxobutyl)benzamide (2.6 g). [Step 4] To a solution of 2-benzoyl-4-bromo-N-(4-methoxybenzyl)-N-(2-oxobutyl)benzamide (2.6 g) in ethanol (52 ml) was added 1,8-diazabicyclo[5.4.0]-7-undecene (2.7 ml) and the mixture was stirred at 90° C. for 18 hrs. After cooling the reaction mixture, the solvent was evaporated under reduced pressure, ethyl acetate was added to the residue, and the mixture was washed with 1N hydrochloric acid. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=5/1-1/1), and crystallized from hexane/ethyl acetate=3/1 to give the title compound (1.6 g) as colorless crystals. 1H NMR (CDCl3) δ: 0.43 (3H, t, J=6.9 Hz), 1.46 (2H, q, J=6.9 Hz), 3.75 (3H, s), 5.34 (2H, s), 6.80 (2H, d, J=8.7 Hz), 7.11 (2H, d, J=8.7 Hz), 7.22-7.28 (2H, m), 7.40-7.48 (4H, m), 7.66 (1H, dd, J=1.8, 8.4 Hz), 8.43 (1H, d, J=8.4 Hz). HPLC analysis: purity 99.2% (retention time: 5.16 min). MS (ESI+): 476 (M+H), 478.

reactant | 2-benzoyl-4-bromo-N-(2-hydroxybutyl)-N-(4-methoxybenzyl)benzamide | 3.2 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC2=CC=C(C=C2)OC)CC(CC)O)C=CC(=C1)Br | C26H26BrNO4
reactant | 4-methylmorpholine N-oxide | 2.3 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | tetra-n-propylammonium perruthenate | 0.23 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-benzoyl-4-bromo-N-(4-methoxybenzyl)-N-(2-oxobutyl)benzamide | 2.6 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N(CC(CC)=O)CC2=CC=C(C=C2)OC)C=CC(=C1)Br | C26H24BrNO4
